US05312936
4-Amino-α-hexyl-1H-imidazole-1-acetic acid ethyl ester
A mixture of 5.9 g of 4-nitro-a-hexyl-1H-imidazole-1-acetic acid ethyl ester, 3 g of palladium-on-carbon and 150 ml of absolute alcohol were subjected to catalytic hydrogenation. Both theoretical and actual hydrogen uptake was 73 pounds. The catalyst was removed by filtration and the filtrate concentrated in vacuo to provide 5.3 g of the desired title intermediate which was used directly.

reactant | 4-nitro-a-hexyl-1H-imidazole-1-acetic acid ethyl ester | 5.9 g | C(C)OC(C(N1C=NC(=C1)[N+](=O)[O-])CCCCCC)=O | C13H21N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 3 g | [Pd] | Pd
product | 4-Amino-α-hexyl-1H-imidazole-1-acetic acid ethyl ester | 5.3 g | C(C)OC(C(N1C=NC(=C1)N)CCCCCC)=O | C13H23N3O2
